US08980879B2
2-bromo-N-(cyclopropylmethyl)aniline
A 100 mL flask was charged with 2-bromoaniline (1.720 g, 10.00 mmol), cyclopropanecarbaldehyde (0.374 mL, 5.00 mmol), acetic acid (2.86 mL, 50.0 mmol) and dichloromethane (50 mL). The mixture was heated at 50° C. for 1 hour. The mixture was then cooled in an ice bath and the sodium triacetoxyborohydride (2.119 g, 10.00 mmol) was added in portionwise over a few minutes. After 15 minutes, the ice bath was removed and the mixture was stirred for 2 hours at ambient temperature. The reaction mixture was quenched with 2.5 M sodium hydroxide (16 mL) and then partitioned between saturated sodium bicarbonate solution (100 mL) and ethyl acetate (100 mL). The layers were separated and the organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated.

reactant | 2-bromoaniline | 10.00 mmol, 1.720 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | cyclopropanecarbaldehyde | 5.00 mmol, 0.374 mL | C1(CC1)C=O | C4H6O
reactant | acetic acid | 50.0 mmol, 2.86 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 10.00 mmol, 2.119 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-bromo-N-(cyclopropylmethyl)aniline | BrC1=C(NCC2CC2)C=CC=C1 | C10H12BrN
